### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Incenter): excenters on sides of faces

### PR DESCRIPTION
**Pull request by jsm28**
Add lemmas about when an excenter of a simplex is on the same / opposite side of a face of that simplex (opposite a vertex) as that vertex.

---

- [ ] depends on: #31205
- [ ] depends on: #32273

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Euclidean/Incenter.lean [hunk 1]
```diff
@@ -1095,6 +1160,48 @@ lemma excenter_eq_incenter_or_excenter_singleton_of_ne (signs : Finset (Fin 3))
     have : i = i₁ ∨ i = i₂ ∨ i = i₃ := by clear h; decide +revert
     grind
 
+lemma sSameSide_affineSpan_pair_incenter_point {i₁ i₂ i₃ : Fin 3} (h₁₂ : i₁ ≠ i₂) (h₁₃ : i₁ ≠ i₃)
+    (h₂₃ : i₂ ≠ i₃) :
+    line[ℝ, t.points i₂, t.points i₃].SSameSide t.incenter (t.points i₁) := by
+  convert t.sSameSide_incenter_point i₁
+  simp
+  grind
```
Comment (eric-wieser) [inline Mathlib/Geometry/Euclidean/Incenter.lean:1168]: Is this an allowed use of simp, @grunweg?

**Review by eric-wieser — APPROVED** [review]
I'm slightly worried about proof fragility, but the statements all look fine. Please ping if you don't get a response from someone else in a few days.

File: Mathlib/Geometry/Euclidean/Incenter.lean (hunk 1 above)
Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:1168]: I'm definitely thinking of `grind` as being a flexible tactic in this context.

Comment (jsm28) [reply Mathlib/Geometry/Euclidean/Incenter.lean:1168]: Pinging, as requested.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!
